Basic BJT Biasing Circuit

* A BJT Model I want to use

.model KST10 NPN level=2 bf=60 vje=0.95

Vcc 1 0 DC 15
Vin vin 0 DC 0 AC 1
R1 1 2 6.8k
R2 2 0 10k
Rc 1 3 100
Re vout 0 1k
Cin vin 2 1u

Q1 3 2 vout KST10

.options filetype=ascii
.ac dec 10 .01 10G

.end
